US06660744B1
3-(4-Amino-3-methoxyphenyl)-1-[1-(1-methylpiperidin-4-yl)-piperidin-4-yl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (100 mg, 0.229 mmol), 2-furaldehyde (0.027 mL, 0.321 mmol), sodium triacetoxyborohydride (193 mg, 0.916 mmol) and glacial acetic acid (55 mg, 0.916 mmol) were mixed with 1,2-dichloroethane (5 mL). The reaction mixture was stirred at room temperature overnight. Saturated sodium bicarbonate solution was added to adjust the pH to about 8. The layers were separated and the aqueous layer was extracted with dichloromethane. The combined organic layer was washed with brine, dried over MgSO4, filtered and evaporated. The residue was purified by flash column chromatography using dichloromethane/methanol/ammonium hydroxide (95:5:0.2) as mobile phase to give 3-{4-[(2-furylmethyl)amino]-3-methoxyphenyl}-1-[1-(1-methylpiperidin-4-yl)piperidin-4-yl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (57 mg, 48%). 1H NMR (DMSO-d6) 6 1.45 (m, 2H), 1.71 (m, 2H), 1.87 (m, 4H), 2.14 (s, 3H), 2.28 (m, 5H), 2.80 (m, 2H), 3.01 (m, 2H), 3.86 (s, 1H), 4.37 (d, J=3.13, 1H), 6.76 (d, J=8.62, 1H), 7.07 (m, 2H), 7.57 (s, 1H), 8.19 (s, 1H). LCMS (Finigan-Column: Pecosphere, C18, 3 um, 33×4.6 mm. Eluents: 0% B/A to 100% B/A in 4 min. (B: acetonitrile, A: 50 mM ammonia acetate buffer, pH 4.5), 3.0 mL/min.): MH+ 517.3, Rt=2.28 min.

reactant | 3-(4-Amino-3-methoxyphenyl)-1-[1-(1-methylpiperidin-4-yl)-piperidin-4-yl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.229 mmol, 100 mg | NC1=C(C=C(C=C1)C1=NN(C2=NC=NC(=C21)N)C2CCN(CC2)C2CCN(CC2)C)OC | C23H32N8O
reactant | 2-furaldehyde | 0.321 mmol, 0.027 mL | O1C(=CC=C1)C=O | C5H4O2
reactant | sodium triacetoxyborohydride | 0.916 mmol, 193 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.916 mmol, 55 mg | C(C)(=O)O | C2H4O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
product | 3-{4-[(2-furylmethyl)amino]-3-methoxyphenyl}-1-[1-(1-methylpiperidin-4-yl)piperidin-4-yl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 57 mg, 48% | O1C(=CC=C1)CNC1=C(C=C(C=C1)C1=NN(C2=NC=NC(=C21)N)C2CCN(CC2)C2CCN(CC2)C)OC | C28H36N8O2
